* Inductor test
V1 1 0 10 AC 10
R1 1 2 100
L1 2 0 1e-3

.OP
.AC LIN 3 500 700

*.control
*ac lin 3 500 700
*print allv
*print alli
*.endc
*.end

*.control
*op
*print all
*.endc
*.end